US04656298
A solution of 6.5 g of ethyl 2-(4-methylphenyl)-3-nitropropyl(diethoxymethyl)phosphinate in 60 ml of ethanol is added to 52 g of an 8% solution of ammonia in ethanol. To this are added 8 ml of Raney Nickel and the resulting mixture is hydrogenated at 1 bar until the theoretical amount of hydrogen has been taken up. The mixture is then filtered and the filtrate is concentrated under reduced pressure to give ethyl 3-amino-2-(4-methylphenyl)propyl(diethoxymethyl)phosphinate as a viscous oil, 31P=+44.6 ppm (CDCl3).

reactant | ethyl 2-(4-methylphenyl)-3-nitropropyl(diethoxymethyl)phosphinate | 6.5 g | CC1=CC=C(C=C1)C(CP(OCC)(=O)C(OCC)OCC)C[N+](=O)[O-] | C17H28NO6P
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Raney Nickel | 8 ml | [Ni] | Ni
product | ethyl 3-amino-2-(4-methylphenyl)propyl(diethoxymethyl)phosphinate | NCC(CP(OCC)(=O)C(OCC)OCC)C1=CC=C(C=C1)C | C17H30NO4P
